US04876252
N-(4-Methoxyphenyl)-4-(4-pyridinyl)-2-pyrimidinamine
A 14.4 g amount of 3-dimethylamino-1-(4-pyridinyl)-2-propen-1-one (U.S. Pat. No. 4,281,000) and 16.1 g of 4-methoxyphenylguanidine carbonate in 200 ml of isopropanol was heated at reflux for 24 hours. The solvent was evaporated to 1/3 volume, then the mixture was cooled in an ice-bath to crystallize the crude product. The product was collected by filtration and washed with water, then with isopropanol. The material was recrystallized from isopropanol/ethylene glycol monomethyl ether to give 16.7 g of the desired product as yellow crystals, mp 174°-175° C.

reactant | 3-dimethylamino-1-(4-pyridinyl)-2-propen-1-one | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
reactant | 4-methoxyphenylguanidine carbonate | 16.1 g | C(O)(O)=O.COC1=CC=C(C=C1)NC(=N)N
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | N-(4-Methoxyphenyl)-4-(4-pyridinyl)-2-pyrimidinamine | 16.7 g | COC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=NC=C1 | C16H14N4O
